US06916819B2
Anhydrous K2CO3 (19 g, 144.5 mmol) is suspended in a solution of 3-Chloro-4-nitro-pyridine-1-oxide (10 g, 57.8 mmol) in anhydrous acetonitrle (100 mL). Excess diethyl amine (2.0 M) in THF is added to the above suspension under cold conditions (ice-bath). After complete addition of diethyl amine, the reaction mixture is allowed to warm to room temperature and left stirring overnight. The reaction mixture is filtered to remove K2CO3 and the filtrate evaporated under reduced pressure to remove volatile solvents. The organic residue is subjected to chromatography, eluting with 30% EtOAc-hexanes to afford 3-Ethylamino-4-nitro-pyridine-1-oxide as an orange solid. 1H NMR (300 MHz, CDCl3) δ 8.0 1 (d, J=7.5 Hz, 1H), 7.91(s, 1H), 7.8 (brs, NH), 7.44 (d, J=7.2 Hz, 1H), 3.30 (t, J=7.2 Hz, 2H), 1.39 (t, J=7.2 Hz, 3H), m/z 184 [M+1]

reactant | K2CO3 | 144.5 mmol, 19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Chloro-4-nitro-pyridine-1-oxide | 57.8 mmol, 10 g | ClC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3ClN2O3
reactant | diethyl amine | 2.0 M | C(C)NCC | C4H11N
solvent | THF | C1CCOC1 | C4H8O
product | 3-Ethylamino-4-nitro-pyridine-1-oxide | C(C)NC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C7H9N3O3
